US07468371B2
4-nitro-1-indanone
A suspension of chromium(VI) oxide (36.7 g, 367.7 mmol) in acetic acid (400 mL) was added slowly to a solution of 4-nitroindane (20 g, 122.6 mmol) in glacial acetic acid (500 mL). Extra acetic acid (200 mL) was used to transfer all the chromium(VI)oxide. The reaction was stirred vigorously at room temperature for about 5 hours and was then quenched with water (200 mL). Most of the acetic acid was removed under high vacuum and the crude product was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate, dried (Na2SO4), filtered and concentrated. The residue was purified by flash chromatography on silica gel using first hexane/ethyl acetate (20:1) as eluent to remove unreacted starting material and then hexane/ethyl acetate (10:1) to provide the desired product. MS (ESI): m/z 176 (M−H)−.

reactant | 4-nitroindane | 122.6 mmol, 20 g | [N+](=O)([O-])C1=C2CCCC2=CC=C1 | C9H9NO2
reactant | acetic acid | 400 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
catalyst | chromium(VI) oxide | 367.7 mmol, 36.7 g | [O-2].[Cr+6].[O-2].[O-2]
product | 4-nitro-1-indanone | [N+](=O)([O-])C1=C2CCC(C2=CC=C1)=O | C9H7NO3
